US05539112
250 g (1.32 mol) of 4-bromo-2-fluoroaniline was dissolved in 500 mL of pyridine, 178 mL (1.45 mol) of pivaloyl chloride was added dropwise under ice-cooling and the mixture was stirred for 10 minutes. The reaction solution was poured into 1.5 L of ice water and the precipitated crystals were collected by filtration. The crystals were washed with 1N hydrochloric acid and water and dried by heating at 40° to 60° C. under reduced pressure to give 350 g of 4-bromo-2-fluoro-N-pivaloylaniline (yield: 97%).

reactant | 4-bromo-2-fluoroaniline | 1.32 mol, 250 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | pivaloyl chloride | 1.45 mol, 178 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 500 mL | N1=CC=CC=C1 | C5H5N
product | 4-bromo-2-fluoro-N-pivaloylaniline | 350 g, yield: 97% | BrC1=CC(=C(NC(C(C)(C)C)=O)C=C1)F | C11H13BrFNO
